US07335658B2
SYNTHESIS OF 6-PIPERAZIN-1-YLPYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOBUTYLETHYL)AMIDE
To a solution of 6-chloropyridazine-3-carboxylic acid (2-cyclobutylethyl)-amide (1.2 g, 5.00 mmol) in acetonitrile (40 mL) was added piperazine (1.29 g, 15.00 mmol). The reaction mixture was heated to reflux overnight. The mixture was evaporated and the solid residue was taken in ethyl acetate (100 mL) and water (100 mL). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (2×100 mL). The combined ethyl acetates were dried over Na2SO4 and concentrated in vacuo to give the title compound as yellow solid (1.14 g, 78.4% yield).

reactant | 6-chloropyridazine-3-carboxylic acid (2-cyclobutylethyl)-amide | 5.00 mmol, 1.2 g | C1(CCC1)CCNC(=O)C=1N=NC(=CC1)Cl | C11H14ClN3O
reactant | piperazine | 15.00 mmol, 1.29 g | N1CCNCC1 | C4H10N2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 6-PIPERAZIN-1-YLPYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOBUTYLETHYL)AMIDE | 1.14 g, 78.4% yield | C1(CCC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C15H23N5O
